US09260425B2
(S)-1-(3-bromo-6-(5-(pyridin-3-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-2-yl)piperidin-3-amine 289
Following the procedures as described in Example 241 and starting with 3-(5-bromo-6-fluoropyridin-2-yl)-5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-c]pyridine and (S)-tert-butyl piperidin-3-ylcarbamate, 289 was obtained as an off-white solid (17.8 mg, 22.32%) over two steps. 1H NMR (400 MHz, DMSO) δ 9.31 (d, J=1.8 Hz, 1H), 9.23 (s, 1H), 9.03 (s, 1H), 8.60 (d, J=4.7 Hz, 1H), 8.46 (d, J=7.9 Hz, 1H), 8.06 (d, J=8.1 Hz, 1H), 7.71 (d, J=8.1 Hz, 1H), 7.62 (dd, J=11.8, 7.1 Hz, 1H), 7.52 (dd, J=8.0, 4.8 Hz, 1H), 3.92 (d, J=10.0 Hz, 1H), 3.84 (d, J=11.7 Hz, 1H), 2.89 (dt, J=16.9, 10.7 Hz, 2H), 2.82-2.75 (m, 1H), 1.96 (d, J=12.6 Hz, 1H), 1.90-1.71 (m, 2H), 1.27 (dd, J=20.9, 9.6 Hz, 1H); ESI MS m/z=450.1 (M+1)

reactant | 3-(5-bromo-6-fluoropyridin-2-yl)-5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-c]pyridine | BrC=1C=CC(=NC1F)C1=NN(C2=CN=C(C=C21)C=2C=NC=CC2)COCC[Si](C)(C)C | C22H23BrFN5OSi
reactant | (S)-tert-butyl piperidin-3-ylcarbamate | N1C[C@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
product | (S)-1-(3-bromo-6-(5-(pyridin-3-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-2-yl)piperidin-3-amine | 17.8 mg, 22.32% | BrC=1C(=NC(=CC1)C1=NNC2=CN=C(C=C21)C=2C=NC=CC2)N2C[C@H](CCC2)N | C21H20BrN7
